US04259510
Methyl 5-Fluoro-2-nitrobenzoate
To a 500 ml, 4-necked flask fitted with a stirrer, thermometer, addition funnel and reflux condenser is charged sulfuric acid (50 ml) and methyl m-fluorobenzoate (8.5 g, 0.055 mole). The reaction mixture is then cooled to 5° C. and a solution of potassium nitrate (reagent 5.57 g, 0.055 mole) is concentrated sulfuric acid (50 ml) is added dropwise over a 30 minute period. Ten minutes after completion of addition the reaction mixture is poured onto 500 g of cracked ice and the product extracted into benzene (3×100 ml). The combined benzene extracts are dried with anhydrous magnesium sulfate and the filtrate reduced in vacuo to give 10.6 g (96%) of product, which is a yellow liquid. Anal. Calcd. for C8H6FNO4 : C, 48.20; H, 3.04; F, 9.54; N, 7.02. Found: C, 50.15; H, 3.34; F, 9.17; N, 6.77.

reactant | methyl m-fluorobenzoate | 0.055 mole, 8.5 g | FC=1C=C(C(=O)OC)C=CC1 | C8H7FO2
reactant | potassium nitrate | 0.055 mole, 5.57 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 5-Fluoro-2-nitrobenzoate | 10.6 g, 96% | FC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6FNO4
